US07414061B2
4-[1-(3-Ethoxy-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (68 mg, 0.3 mmol) was converted, using 3-ethoxyphenylboronic acid instead of 4-fluorophenylboronic acid, to the tide compound (8 mg, 7%) which was obtained as an off-white solid. MS: m/e=346.5 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.3 mmol, 68 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 3-ethoxyphenylboronic acid | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
product | 4-[1-(3-Ethoxy-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 8 mg, 7% | C(C)OC=1C=C(C=CC1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C21H19N3O2
